Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
SOB
 
Major Surgical or Invasive Procedure:
EBUS with bx ___

 
History of Present Illness:
___ yo F with locally invasive triple-negative breast cancer s/p
neoadjuvant chemotherapy and radiation followed by right 
modified
radical mastectomy in ___ presenting with shortness of 
breath.

Pt diagnosed with breast cancer in ___ of this year, has
since completed radiation (last xrt ___ & chemo (last dose
___ and has had this pain once before and was told that
scans showed "shattered glass". 

Patient reports 2 weeks of progressive shortness of breath and 2
days of pleuritic back and chest pain. Pt recently completed 1 
wk
course of pcn after son had strep throat. Her husband notes that
her symptoms began when they put in the window AC and started
using it. Denies fevers/chills/n/v/dysuria/swelling. Pt 
describes
R sided chest pain as musculoskeletal in nature, starting
originally in back and moving to anterior chest. She has noted
shortness of breath mostly with exertion. At first it was just
with climbing steps and then it progressed to walking on flat
surfaces. No shortness of breath at rest. Her son was recently
diagnosed with Streptococcal pharyngitis. Patient subsequently
developed upper respiratory symptoms, for which she completed a 
6
day course of penicillin 2 days ago. Her shortness of breath
continued and on day prior to presentation she developed acute
onset pleuritic chest and upper back pain. This gradually
increased in intensity and migrated to right anterior chest,
overlying area of previous mastectomy and radiation. Notably,
patient was evaluated by her PCP on day prior to presentation.
Given shortness of breath and tachycardia, concern for pulmonary
embolism for which CTA chest was obtained. CTA chest was 
negative
for PE but was remarkable for "interval increase in multifocal
areas of airspace consolidation, most likely an infectious
process, consider atypical organisms, including fungi.
Cryptogenic organizing pneumonia could also be considered."
Increase in mediastinal and hilar lymphadenopathy was also 
noted.
Symptoms continued, prompting patient to present to the ___ ED
this morning.
 
Past Medical History:
PMH:
Polycystic ovarian syndrome.
Anemia.
Acne.

PSH:
Two C-sections.
Hysteroscopy in ___ for removal of a polyp.

 
Social History:
___
Family History:
She has a paternal cousin who had breast cancer at ___. There is 
no one with ovarian cancer in her family. Her maternal 
grandmother was diagnosed with lung cancer at the age of ___, but 
was an avid smoker for ___ years and a maternal great uncle had 
stomach cancer in his ___-
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS:  98.2, 110/70, 128, 18, 99% on RA
GENERAL: NAD, but she does get slightly short of breath when
talking.   
HEENT:  PEERL, no thrush
RIGHT AXILLA: Some stippling at surgical scar but no clear 
masses
- may be c/w post surgical changes
CARDIAC: JVP flat, tachy no m/r/g
CHEST: Site of mastectomy c/d/I
Hyperpigmented XRT changes noted
Erythematous macular rash present on torso
LUNGS: CTAB    
ABD: NABS, soft, non-tender in all four quadrants 
EXT:  No edema
PULSES:  2+ pulses b/l
NEURO:  CN II-XII grossly symmetrical, ___ strength in upper and
lower b/l extremities
SKIN:  Rashes as above

DISCHARGE PHYSICAL EXAM:  
VS:  99.5 94-130/60-70 109-126 16 96
GENERAL: Pleasant though depressed mood, conversive, A&Ox3. NAD. 

HEENT:  PEERL, no thrush
RIGHT AXILLA: Some stippling at surgical scar but no clear 
masses
- may be c/w post surgical changes
CARDIAC: JVP flat, tachy no m/r/g
CHEST: Site of mastectomy c/d/I
Hyperpigmented XRT changes noted
Erythematous macular rash present on torso
LUNGS: CTAB    
ABD: NABS, soft, non-tender in all four quadrants 
EXT:  No edema
PULSES:  2+ pulses b/l
NEURO:  CN II-XII grossly symmetrical, ___ strength in upper and
lower b/l extremities
SKIN:  Rashes as above
 
Pertinent Results:
ADMISSION LABS
___ 04:41PM BLOOD WBC-8.5# RBC-3.62* Hgb-12.3 Hct-36.6 
MCV-101* MCH-34.0* MCHC-33.6 RDW-11.9 RDWSD-43.6 Plt ___
___ 04:41PM BLOOD Neuts-86.1* Lymphs-7.9* Monos-5.5 
Eos-0.0* Baso-0.1 Im ___ AbsNeut-7.30*# AbsLymp-0.67* 
AbsMono-0.47 AbsEos-0.00* AbsBaso-0.01
___ 04:41PM BLOOD Plt ___
___ 04:41PM BLOOD ___ PTT-25.4 ___
___ 04:41PM BLOOD Glucose-114* UreaN-12 Creat-0.8 Na-141 
K-3.5 Cl-102 HCO3-22 AnGap-21*
___ 04:41PM BLOOD CK(CPK)-106
___ 04:41PM BLOOD CK-MB-<1 cTropnT-<0.01 proBNP-79
___ 04:41PM BLOOD Albumin-4.6 Calcium-10.4* Phos-3.0 Mg-2.0

DISCHARGE LABS
___ 07:12AM BLOOD WBC-5.7 RBC-3.29* Hgb-11.2 Hct-32.6* 
MCV-99* MCH-34.0* MCHC-34.4 RDW-11.9 RDWSD-42.6 Plt ___
___ 07:12AM BLOOD Plt ___
___ 07:12AM BLOOD ___ PTT-25.7 ___
___ 07:12AM BLOOD Glucose-103* UreaN-11 Creat-0.8 Na-136 
K-3.8 Cl-96 HCO3-25 AnGap-19
___ 07:12AM BLOOD ALT-24 AST-29 AlkPhos-89 TotBili-0.8
___ 07:12AM BLOOD Calcium-9.9 Phos-4.5 Mg-2.1

__________________________________________________________
Time Taken Not Noted     Log-In Date/Time: ___ 4:55 pm
      BRONCHOALVEOLAR LAVAGE      LEFT UPPER LOBE ANT SEG. 

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   RESPIRATORY CULTURE (Preliminary):    RESULTS PENDING. 

   ACID FAST SMEAR (Preliminary): 

   FUNGAL CULTURE (Preliminary): 

   ACID FAST CULTURE (Preliminary): 

   POTASSIUM HYDROXIDE PREPARATION (Final ___: 
      Test cancelled by laboratory. 
      PATIENT CREDITED. 
      This is a low yield procedure based on our in-house 
studies. 
      if pulmonary Histoplasmosis, Coccidioidomycosis, 
Blastomycosis,
      Aspergillosis or Mucormycosis is strongly suspected, 
contact the
      Microbiology Laboratory (___). 

   Immunoflourescent test for Pneumocystis jirovecii (carinii) 
(Final
      ___:    NEGATIVE for Pneumocystis jirovecii 
(carinii). 
__________________________________________________________
___ 9:36 pm SPUTUM      Source: Expectorated. 

   GRAM STAIN (Final ___: 
      <10 PMNs and >10 epithelial cells/100X field. 
      Gram stain indicates extensive contamination with upper 
respiratory
      secretions. Bacterial culture results are invalid. 
      PLEASE SUBMIT ANOTHER SPECIMEN. 

   RESPIRATORY CULTURE (Final ___: 
      TEST CANCELLED, PATIENT CREDITED. 

   ACID FAST SMEAR (Final ___: 
      NO ACID FAST BACILLI SEEN ON CONCENTRATED SMEAR. 

   ACID FAST CULTURE (Preliminary): 
__________________________________________________________
___ 4:41 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 
__________________________________________________________
___ 4:41 pm BLOOD CULTURE

   Blood Culture, Routine (Pending): 

CTA chest (___): 
1. No pulmonary embolus or acute aortic abnormality. 
2. Interval increase in multifocal areas of airspace
consolidation, most likely an infectious process, consider
atypical organisms, including fungi. Cryptogenic organizing
pneumonia could also be considered. 
3. Marked interval increase in mediastinal and hilar
lymphadenopathy and left upper lobe nodular interlobular septal
thickening. Findings may be related to underlying infectious
process, however in the setting of known high-grade breast
cancer, endobronchial lymph node biopsy of the subcarinal or
hilar lymph nodes should be considered to exclude progression of
malignancy.
RECOMMENDATION(S): 
1. Consider endobronchial biopsy of the new mediastinal and 
hilar
lymphadenopathy. 
2. 3 month followup chest CT to evaluate progressive findings
described above 

ECHO ___
IMPRESSION: Very small pericardial effusion. Normal 
biventricular
cavity sizes with preserved regional and global biventricular
systolic function. No valvular pathology or pathologic flow
identified.

CT ABD & PELVIS WITH CONTRAST Study Date of ___ 
1. No evidence of metastatic disease in the abdomen and pelvis. 
2. Please refer to separate report of CT chest performed on the
same day for description of the thoracic findings. 

Normal bone scan without evidence of metastatic disease.

Bronchoscopy ___
Technical Procedure: The patient was brought to the OR and 
placed supine. After adequate anesthesia an LMA was placed. The 
airways were inspected. No endobronchial lesions were noted. 
EBUS-TBNA performed on 11___ and 7. BAL was done on the anterior 
seg of the LUL (120 in 40 out). 
Hemostasis was confirmed, secretions were cleared, and the 
bronchoscope was removed.
 
Brief Hospital Course:
___ yo F with locally invasive triple-negative breast cancer s/p 
neoadjuvant chemotherapy and radiation followed by right 
modified radical mastectomy in ___ presenting with shortness 
of breath, found to have notable evolution with growth of hilar 
lymph nodes on CT, now s/p bronch with bx ___ to evaluate for 
lymphangitic recurrence of breast cancer.

# Shortness of breath: likely metastatic malignancy with 
lymphangetic spread. 
- CTA negative for PE
- ECG and CEs reassuring for absence of cardiac ischemia
- given clinical stability and unlikelihood of infection, did 
not administer anti-microbial agents
- seen by pulmonary; closely following, agree with holding 
anti-microbials.  
- Normal ECHO with very small pericardial effusion
- sent for IGRA, quant gold, sputum 
- SW consult, emotional support through workup and 
prognostication
- s/p bronch with EBUS-TBNA of LN - follow up results on 
outpatient basis

TACHYCARDIA:
Likely secondary to anxiety
- Ativan PRN anxiety
- IVF/pain control
- reassured that CTA negative for PE
- echo normal
- continue pain control with dilaudid prn

# Breast cancer:
- triple negative 2.5 x 1.9 x 1.6 mass s/p neoadj DDAC and taxol 
___ s/p XRT with plans to start xeloda once surgical site has 
healed. Bone Scan, CT abd/pelvis, CEA, ___ for 
prognostication and determination of chemo regimen
- Dr. ___ closely
- treatment per outpatient providers
- CT abd/pelvis for staging negative for mets
- CEA, ___ normal
- Bone scan ___ AM negative for mets

# LUL nodule: consider endobronchial biopsy.

TRANSITIONAL ISSUES:
=============================
#follow up biopsy results for next week; patient to follow up 
with Dr. ___. 
#Bone scan showed Normal bone scan without evidence of 
metastatic disease.
#CT abd/pelvis showed no mets
# Patient being discharged with albuterol inhaler and 
codeine/guaifensine for cough/slight wheeze after bronch
# Due to focal chest pain over cancer site above and slight 
nausea/anxiety after procedure patient discharged with short 
course of dilaudid and Ativan. 

#HCP is her husband
#Full code

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. This patient is not taking any preadmission medications

 
Discharge Medications:
1. LORazepam 0.5 mg PO Q4H:PRN anxiety 
RX *lorazepam [___] 0.5 mg 1 tablet by mouth every 4 hrs Disp 
#*24 Tablet Refills:*0
2. Albuterol Inhaler 1 PUFF IH Q6H:PRN sob 
RX *albuterol sulfate [Ventolin HFA] 90 mcg 1 puff every 6 hrs 
as needed shortness of breath Disp #*1 Inhaler Refills:*0
3. Guaifenesin-CODEINE Phosphate ___ mL PO Q6H:PRN cough 
RX *codeine-guaifenesin 100 mg-10 mg/5 mL ___ ml by mouth every 
6 hrs Refills:*0
4. Senna 17.2 mg PO BID:PRN constiaption 
5. Docusate Sodium 200 mg PO TID 
6. HYDROmorphone (Dilaudid) ___ mg PO Q3H:PRN pain 
RX *hydromorphone [Dilaudid] 2 mg ___ tablet(s) by mouth every 
3 hours Disp #*40 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
breast cancer

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

You were admitted to the hospital for shortness of breath and 
new changes on your imaging. You underwent bronchoscopy with 
biopsy, the results of which are still pending. Dr. ___ will 
follow up on the results and discuss them with you at follow up. 
Your heart looked normal on ultrasound, and other imaging showed 
no evidence of spread in the abdomen, pelvis, or bones. You are 
now safe for discharge home with close follow up. 

We are giving you a prescription to take as needed for cough and 
shortness of breath after your bronchoscopy. 

It was a pleasure caring for you - we wish you well!
Sincerely,
Your ___ Oncology Team
 
Followup Instructions:
___